US07645753B2
3,5-Diethoxy-4-methysufonyl-benzaldehyde
To a solution of (±)-3,5-diethoxy-4-methanesulfinyl-benzaldehyde (0.60 g, 2.34 mmol, 1.0 equiv) in conc. acetic acid (10 mL) was added a solution of 35% hydrogen peroxide in water (0.41 mL, 0.46 g, 4.68 mmol, 2.0 equiv) and the solution stirred for 2 h at 40° C. Periodically, every 2 hours another 2.0 equivalents of hydrogen peroxide were added to the reaction mixture to drive the reaction to completion. After 6 h the reaction mixture was extracted with ethyl acetate (3×50 mL) and the combined organic phases dried over MgSO4. The organic solvent was removed by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with heptane/ethyl acetate (1:1) providing 0.27 g (42%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.51 (t, J=7.0 Hz, 6H), 3.34 (s, 3H), 4.24 (q, J=7.0 Hz, 4H), 7.10 (s, 2H), 9.95 (s, 1H). 13C NMR (75 MHz, CDCl3): δ 814.39, 46.59, 66.02, 106.62, 123.29, 140.08, 158.91, 190.95. MS (ISP): 273.0 [M+H]+.

reactant | (±)-3,5-diethoxy-4-methanesulfinyl-benzaldehyde | 2.34 mmol, 0.60 g, 1.0 equiv | C(C)OC=1C=C(C=O)C=C(C1S(=O)C)OCC | C12H16O4S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 4.68 mmol, 0.41 mL, 0.46 g, 2.0 equiv | O | H2O
reactant | hydrogen peroxide | 2.0 equivalents | OO | H2O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3,5-Diethoxy-4-methysufonyl-benzaldehyde | 0.27 g, 42% | C(C)OC=1C=C(C=O)C=C(C1S(=O)(=O)C)OCC | C12H16O5S
